US07294716B2
2-(4-{[(2-Amino-5-methoxyphenyl)amino]sulfonyl}phenoxy)acetamide (Intermediate A61)
2-(4-{[(5-methoxy-2-nitrophenyl)amino]sulfonyl}phenoxy)acetamide (Intermediate A60, 2.0 g, 0.0052 mol) was hydrogenated in N,N-dimethylacetamide with platinum(IV)oxide catalyst (0.2 g) until hydrogen uptake ceased. The catalyst was removed by filtration and the resulting mixture was concentrated under reduced pressure. The resulting solid was triturated with ethyl acetate to give 1.7 g (93%) of the title compound, “amine sulfonamide”.

reactant | 2-(4-{[(5-methoxy-2-nitrophenyl)amino]sulfonyl}phenoxy)acetamide | 0.0052 mol, 2.0 g | COC=1C=CC(=C(C1)NS(=O)(=O)C1=CC=C(OCC(=O)N)C=C1)[N+](=O)[O-] | C15H15N3O7S
reactant | hydrogen | [H][H] | H2
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
catalyst | platinum(IV)oxide | 0.2 g | [Pt](=O)=O
product | 2-(4-{[(2-Amino-5-methoxyphenyl)amino]sulfonyl}phenoxy)acetamide | 1.7 g, 93% | NC1=C(C=C(C=C1)OC)NS(=O)(=O)C1=CC=C(OCC(=O)N)C=C1 | C15H17N3O5S
